US07417060B2
To a suspension of sodium hydride (60% w/w, 20.5 g) in N,N-dimethylformamide (365 ml) was added 2-methyl-1-propanol (48.7 ml) dropwise below 30° C. over 2 hours under nitrogen atmosphere. To the mixture was added 4-bromo-2-fluorobenzoic acid (50.0 g) slowly below 35° C. To the reaction mixture was added N,N-dimethylformamide (600 ml) and the mixture was stirred at room temperature for 4 days. The reaction mixture was partitioned between water (2000 ml) and hexane (1000 ml). The water layer was separated and acidified with 37% hydrochloric acid. The precipitate was collected by filtration, washed with water and dried at 55° C. to give 4-bromo-2-isobutoxybenzoic acid (62.4 g) as a white solid.

reactant | sodium hydride | 20.5 g | [H-].[Na+]
reactant | 2-methyl-1-propanol | 48.7 ml | CC(CO)C | C4H10O
reactant | 4-bromo-2-fluorobenzoic acid | 50.0 g | BrC1=CC(=C(C(=O)O)C=C1)F | C7H4BrFO2
solvent | N,N-dimethylformamide | 365 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 600 ml | CN(C=O)C | C3H7NO
product | 4-bromo-2-isobutoxybenzoic acid | 62.4 g | BrC1=CC(=C(C(=O)O)C=C1)OCC(C)C | C11H13BrO3
